US07132539B2
Preparation of {1-(4-chlorobenzyl)-2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethyl]-carbamic acid tert-butyl ester (44):
To a cold solution of 2-{4-[2-tert-butoxycarbonylamino-3-(4-chlorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid, 43, (1.0 g, 1.6 mmol) and PyBOP (1.1 g, 2.0 mmol) in anhydrous dichloromethane (10 mL) are added 2 M methyl amine solution in THF (0.9 mL, 1.6 mmol) and triethyl amine (0.6 mL, 3.9 mmol). The reaction mixture is placed in a refrigerator overnight. EtOAc (50 mL) and water (100 mL) are added, the organic layer is decanted and the aqueous layer is extracted with EtOAc (3×75 mL). All organic layers are combined and washed with brine (100 mL), dried over Na2SO4, concentrated in vacuo and purified over silica (EtOAc/Hexane, 1:1) to provide 1.0 g (quantitative yield) of the desired product. 1H NMR (CDCl3, 300 MHz): δ 7.72–7.50 (m, 4H), 7.29–7.14 (m, 4H), 7.10–7.04 (m, 2H), 7.00–6.97 (m, 3H), 5.60–5.51 (m, 1H), 4.73–4.66 (m, 1H), 4.30–4.11 (m, 1H), 3.45–3.26 (m, 2H), 3.15–3.05 (m, 1H), 2.86–2.79 (m, 3H), 2.75–2.59 (m, 5H), 2.56–2.47 (m, 1H), 2.43–2.29 (m, 1H), 2.05–2.01 (m,1H), 1.61 (s, 9H), 0.64–0.54 (m, 2); 13C NMR, (CDCl3, 75 MHz): δ 171.9, 170.3, 170.0, 155.0, 137.4, 137.2 135.3, 135.1, 133.6, 132.8, 132.2, 131.2, 131.1, 131.0, 128.7, 128.6, 128.4, 127.9, 127.8, 127.6, 127.5, 126.4, 126.0, 125.4, 124.7, 118.6, 110.4, 79.6, 69.9, 55.4, 50.9, 50.2, 46.4, 39.8, 37.9, 32.0, 32.6, 28.4, 26.5, 26.1, 23.0, 22.0, 10.6, 10.0.

reactant | 2-{4-[2-tert-butoxycarbonylamino-3-(4-chlorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)N1C(CN(CC1)C(C(=O)O)CC1=CC2=CC=CC=C2C=C1)CC)CC1=CC=C(C=C1)Cl | C33H40ClN3O5
reactant | PyBOP | 2.0 mmol, 1.1 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | methyl amine | 2 M | CN | CH5N
reactant | THF | 1.6 mmol, 0.9 mL | C1CCOC1 | C4H8O
reactant | triethyl amine | 3.9 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | {1-(4-chlorobenzyl)-2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethyl]-carbamic acid tert-butyl ester | 1.0 g, quantitative yield | C(C)(C)(C)OC(NC(C(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)CC)CC1=CC=C(C=C1)Cl)=O | C34H43ClN4O4
